US06897231B2
A. 5-Fluoro-3-phenyl-1H-indazole
A solution of 2,5-difluorobenzophenone (0.655 g, 3.0 mmol) and hydrazine (1.0 mL) in dried pyridine (10 mL) was heated at 130° C. for 5 hours and then concentrated and purified by chromatography (SiO2, 15-30% ethyl acetate/hexane) to provide the title compound (0.254 g, 40% yield): mp 124-125° C.; 1H NMR (CDCl3) δ 10.89 (br s, 1H), 7.94 (d, 2H), 7.65 (dd, 1H), 7.42-7.54 (m, 3H), 7.33 (dd, 1H), 7.21 (dt, 1H); EL-MS (m/z) 212 [M]+.

reactant | 2,5-difluorobenzophenone | 3.0 mmol, 0.655 g | FC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)F | C13H8F2O
reactant | hydrazine | 1.0 mL | NN | H4N2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 5-Fluoro-3-phenyl-1H-indazole | 0.254 g, 40% yield | FC=1C=C2C(=NNC2=CC1)C1=CC=CC=C1 | C13H9FN2
